US07534797B2
1-{4-[3-(8-Chloro-1-iodo-imidazo[1,5-a]pyrazin-3-yl)-cyclobutyl]-piperazin-1-yl}-ethanone
Into a RBF 3-(8-chloro-1-iodo-imidazo[1,5-a]pyrazin-3-yl)-cyclobutanone (1.00 g, 0.0029 mol) and sodium triacetoxyborohydride (1.30 g, 0.006 mol) were dissolved in 1,2-dichloroethane (65.0 mL) and a solution of 1-acetylpiperazine (0.39 g, 0.003 mol) in 1,2-dichloroethane was added to the reaction. The reaction mixture was stirred at room temperature for 2 h. The crude product was concentrated in vacuo and the dissolved in CH2Cl2 (25.0 mL) and washed with saturated NaHCO3 solution (1×40 mL). The product was dried with sodium sulfate and concentrated in vacuo to yield a light yellow solid; MS (ES+): m/z 459.84 (100) [MH+], 461.80 (40) [MH++]; HPLC: tR=1.81 min (OpenLynx, polar—5 min); 1H NMR (CDCl3, 400 MHz) δ 2.04-2.15 (m, 3H) 2.26-2.50 (m, 6H) 2.55-2.72 (m, 2 H) 2.83-2.99 (m, 1H) 3.29-3.52 (m, 3H) 3.56-3.67 (m, 2H) 7.29 (d, 1H) 7.58 (d, 1H).

reactant | 3-(8-chloro-1-iodo-imidazo[1,5-a]pyrazin-3-yl)-cyclobutanone | 0.0029 mol, 1.00 g | ClC=1C=2N(C=CN1)C(=NC2I)C2CC(C2)=O | C10H7ClIN3O
reactant | sodium triacetoxyborohydride | 0.006 mol, 1.30 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-acetylpiperazine | 0.003 mol, 0.39 g | C(C)(=O)N1CCNCC1 | C6H12N2O
solvent | 1,2-dichloroethane | 65.0 mL | ClCCCl | C2H4Cl2
product | 1-{4-[3-(8-Chloro-1-iodo-imidazo[1,5-a]pyrazin-3-yl)-cyclobutyl]-piperazin-1-yl}-ethanone | ClC=1C=2N(C=CN1)C(=NC2I)C2CC(C2)N2CCN(CC2)C(C)=O | C16H19ClIN5O
